US08071595B2
To a room temperature, stirred solution of 1-(4-methoxyphenyl)-2-(4-(quinolin-2-ylmethoxy)phenyl)ethanone (100 mg, 0.26 mmol) in THF (5 mL), t-BuOK (1.0 mL, 1.0 N solution in THF) was added under an inert atmosphere and the resulting mixture was stirred for 30 min. 2-Bromo-2-methylpropanoyl cyanide (90 mg, 0.5 mmol) was then added to the reaction mixture and stirring was continued for an additional 16 h. The reaction mixture was quenched with cold water (10 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with water (30 mL) and brine (30 mL), dried over Na2SO4, filtered, concentrated and purified by column chromatography (10-15% ethyl acetate in hexanes) to afford 5-(4-methoxyphenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (10 mg) as a solid.

reactant | 1-(4-methoxyphenyl)-2-(4-(quinolin-2-ylmethoxy)phenyl)ethanone | 0.26 mmol, 100 mg | COC1=CC=C(C=C1)C(CC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C25H21NO3
reactant | 2-Bromo-2-methylpropanoyl cyanide | 0.5 mmol, 90 mg | BrC(C(=O)C#N)(C)C | C5H6BrNO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | t-BuOK | 1.0 N, 1.0 mL | CC(C)(C)[O-].[K+]
product | 5-(4-methoxyphenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 10 mg | COC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C29H25NO4
